*****************************************************************
* NXP PSMN1R9_25YLC
*
* Polarity N-Channel
* Ratings 25V/2.1E-03OHMS/25A
*
* Date Created Sat Apr  2 18:00:40 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R9_25YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.0005


RDS 7 4 25000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0010636562942357 TC=0.00899996299751556,-1.12522718184275e-05
RBD 9 4 0.000656373671229731 TC=0.00899996299751556,-1.12522718184275e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 3.1484756502355e-09
RG 1 2 0.776633761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	3463
+ -12	3461
+ -10	3454
+ -5	3435
+ -4	3404
+ -3	3371
+ -2	3083
+ -1	2322
+ -0.5	1946
+ -0.2	1701
+ -0.1	1615
+ 0	1523
+ 0.1	1389
+ 0.2	1259
+ 0.5	921
+ 1	631
+ 2	463
+ 3	407
+ 4	376
+ 5	354
+ 6	339
+ 8	317
+ 10	300
+ 12	288
+ 15	276
+ 20	263


.MODEL MINT NMOS(Vto=1.86555325891743 Kp=4.0485e+02 Nfs=380000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Vmax=1000)

.MODEL DBD D(Bv=26.00 Ibv=2.50E-04 Rs=1E-6 Is=2.57072513062615e-12
+ N=1 M=0.61 VJ=0.61 Fc=0.5 Cjo=2.972e-09 Tt=3.395e-08)

.ENDS
